US06265577B1
Ethyl 2-ethoxycarbonyl-4-(2-isopropylpyrazolo[1,5-a]-pyridine-3-yl)-4-oxobutyrate
Sodium (0.10 g) was dissolved into ethanol (4 ml) and diethyl malonate (0.71 g) was added at room temperature. After stirring for 20 minutes at 50° C., a solution of 3-(2-bromoacetyl)-2-isopropylpyrazolo[1,5-a]pyridine (1.06 g) in ethanol (6 ml) was added and the mixture was stirred for 75 minutes at 80° C. The reaction liquor was concentrated, and, water and ethyl acetate were added to the residue to separate the organic layer. After the organic layer was washed with water and with saturated brine and dried over anhydrous sodium sulfate, solvent was distilled off and the residue was purified by means of silica gel column chromatography (developing solvent, ethyl acetate, n-hexane=1:3) to obtain aimed product (0.44 g) as pale yellow powder.

reactant | Sodium | 0.10 g | [Na] | Na
reactant | diethyl malonate | 0.71 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-(2-bromoacetyl)-2-isopropylpyrazolo[1,5-a]pyridine | 1.06 g | BrCC(=O)C=1C(=NN2C1C=CC=C2)C(C)C | C12H13BrN2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Ethyl 2-ethoxycarbonyl-4-(2-isopropylpyrazolo[1,5-a]-pyridine-3-yl)-4-oxobutyrate | 0.44 g | C(C)OC(=O)C(C(=O)OCC)CC(=O)C=1C(=NN2C1C=CC=C2)C(C)C | C19H24N2O5
